US04410537
5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid (595 mg, 2.5 mM) was dissolved in dry dichloromethane (7.5 ml) under nitrogen with stirring, and immersed in a cooling bath kept at -10° C. To this solution was added dropwise from a syringe triethylamine (0.35 ml, 2.5 mM). After 5 minutes was then similarly added ethyl chloroformate (0.25 ml, 2.5 mM). After 15 minutes was then similarly added isopropylamine (0.215 ml, 2.5 mM). The reaction mixture was allowed to warm to room temperature and then stirred at room temperature (1/2 hr). After diluting with ether (50 ml) and 1 N hydrochloric acid the aqueous phase was removed and the organic phase washed with dilute sodium bicarbonate solution and then quickly extracted with 2 N sodium hydroxide solution (1×25 ml). The layers were separated and the aqueous phase immediately acidified with dilute hydrochloric acid and extracted with ether/ethyl acetate. The combined extracts were washed with dilute sodium bicarbonate solution, water, dried (sodium sulphate) and evaporated to give N-isopropyl 5-(2-formyl-3-hydroxyphenoxy)pentanamide, m.p. 92°-93° C. from ethyl acetate/petrol.

reactant | 5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid | 2.5 mM, 595 mg | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1O | C12H14O5
reactant | triethylamine | 2.5 mM, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.5 mM, 0.25 ml | ClC(=O)OCC | C3H5ClO2
reactant | isopropylamine | 2.5 mM, 0.215 ml | C(C)(C)N | C3H9N
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hydrochloric acid | 1 N | Cl | ClH
product | N-isopropyl 5-(2-formyl-3-hydroxyphenoxy)pentanamide | C(C)(C)NC(CCCCOC1=C(C(=CC=C1)O)C=O)=O | C15H21NO4
